US07169809B2
Step 4: 6-bromohexyl (2Z)-4-{[N-(tert-butoxycarbonyl)glycyl]oxy}-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate
A solution of 1.88 g of (2Z)-4-{[N-(tert-butoxycarbonyl)glycyl]oxy}-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid and 9.6 g of 1,6-dibromohexane in 20 mL of DMF was stirred at rt with 550 mg of K2CO3 for 2 h. Then saturated ammonium chloride solution was added and extracted with EtOAc. The organic layer was combined and washed with brine and dried over Na2SO4. The solvent was evaporated and the residue was purified by flash chromatography over silica gel (5–50% EtOAc/hexane) to afford 2.1 g of the titled compound as a colorless oil. 1H NMR (500 MHz, acetone-d6): δ 7.76 (d, 2H), 7.43 (d, 2H), 7.17 (m, 3H), 7.08 (d, 2H), 6.24 (br s, NH), 5.27 (s, 2H), 4.24 (t, 2H), 3.68 (d, 2H), 3.45 (t, 2H), 3.05 (s, 3H), 1.81 (m, 2H), 1.68 (m, 2H), 1.44–1.32 (m, 4H), 1.39 (s, 9H).

reactant | (2Z)-4-{[N-(tert-butoxycarbonyl)glycyl]oxy}-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid | 1.88 g | C(C)(C)(C)OC(=O)NCC(=O)OC\C(=C(/C(=O)O)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C24H27NO8S
reactant | 1,6-dibromohexane | 9.6 g | BrCCCCCCBr | C6H12Br2
reactant | K2CO3 | 550 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 6-bromohexyl (2Z)-4-{[N-(tert-butoxycarbonyl)glycyl]oxy}-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate | 2.1 g | C(C)(C)(C)OC(=O)NCC(=O)OC\C(=C(/C(=O)OCCCCCCBr)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C30H38BrNO8S
